US07534797B2
3-Phenylquinoxaline-6-carbaldehyde
DIBAL (1.0 M in THF, 2.0 mL, 2.0 mmol was added to a THF (5 mL) solution of N-methoxy-N-methyl-3-phenylquinoxaline-6-carboxamide (198 mg, 0.67 mmol) under N2 over 10 min at −78° C. The reaction was stirred for 2.5 h at the temperature, then satd solution of potassium sodium tartrate (Rochelle salt), was added. The cooling bath was removed immediately after the addition. The reaction was stirred for 30 min turning into a clear orange solution. The crude mixture was extracted with DCM (3×), washed (satd Rochelle salt, brine), dried, concentrated and purified by flash chromatography (SiO2, 0-1.5 % MeOH in DCM) to afford the title compound as a white solid; 1H NMR (400 MHz, CDCl3) δ 10.27 (s, 1H), 9.43 (s, 1H), 8.63 (s, 1H), 8.26-8.20 (m, 4H), 7.65-7.52 (m, 3H). MS (ES+): m/z 235.1 (100) [MH+]; HPLC: tR=3.38 min (OpenLynx, polar—5 min).

reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | N-methoxy-N-methyl-3-phenylquinoxaline-6-carboxamide | 0.67 mmol, 198 mg | CON(C(=O)C=1C=C2N=C(C=NC2=CC1)C1=CC=CC=C1)C | C17H15N3O2
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-Phenylquinoxaline-6-carbaldehyde | C1(=CC=CC=C1)C=1C=NC2=CC=C(C=C2N1)C=O | C15H10N2O
